US08304419B2
6-chloro-2-fluoro-3-methylphenol (9.96 g, 62.0 mmol) and 18-crown-6 (4.5 g, 17.03 mmol) were dissolved in dry DMSO (100 mL) and treated with 20% potassium t-butoxide in THF (34.8 g, 62.0 mmol) in THF for 15 minutes at room temperature. 5-bromo-2-chloro-1,3-difluorobenzene (14.11 g, 62.0 mmol) was added in one portion and the reaction mixture heated at 130° C. for 3 days. The reaction mixture was filtered through Celite™, cooled to ambient temperature and water was added to afford the crude product as a black precipitate which was filtered off, washed with water and air dried. The crude product was dissolved in DCM, dried over MgSO4, and filtered through a plug of 45 g silica gel which was eluted with 500 mL DCM. The filtrate was concentrated to an amber oil and crystallized by addition of EtOH (150 mL). The precipitate was cooled in an ice bath and filtered to afford 2-[(5-bromo-2-chloro-3-fluorophenyl)oxy]-1-chloro-3-fluoro-4-methylbenzene (8.7 g, 23.64 mmol, 38.1% yield) as a white solid. The mother liquor was concentrated to dryness and crystallized from IPA (70 mL) to give a second batch of the desired product (4.55 g, 12.36 mmol, 19.93% yield) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.61 (dd, J=8.56, 1.97 Hz, 1H), 7.30-7.47 (m, 2H), 6.74 (s, 1H), 2.29 (d, J=1.56 Hz, 3H).

reactant | 6-chloro-2-fluoro-3-methylphenol | 62.0 mmol, 9.96 g | ClC1=CC=C(C(=C1O)F)C | C7H6ClFO
reactant | 18-crown-6 | 17.03 mmol, 4.5 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | 5-bromo-2-chloro-1,3-difluorobenzene | 62.0 mmol, 14.11 g | BrC=1C=C(C(=C(C1)F)Cl)F | C6H2BrClF2
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 62.0 mmol, 34.8 g | C1CCOC1 | C4H8O
product | 2-[(5-bromo-2-chloro-3-fluorophenyl)oxy]-1-chloro-3-fluoro-4-methylbenzene | 23.64 mmol, 8.7 g, 38.1% yield | BrC=1C=C(C(=C(C1)OC1=C(C=CC(=C1F)C)Cl)Cl)F | C13H7BrCl2F2O
